US04030906
A 30.2-g (0.2 mol) sample of methyl 2-aminobenzoate in 150 ml diethyl ether was added dropwise to a solution of methyl magnesium iodide (prepared from 19.4 g of Mg and 127.8 g of methyl iodide) in 150 ml diethyl ether. The reaction mixture was then heated under reflux for 1 hour, cooled, and diluted with 200 ml of saturated aqueous ammonium chloride solution. The resulting aqueous mixture was extracted with ether. The ether extracts were dried over magnesium sulfate and evaporated to give 19.1 g of α,α-dimethyl-2-aminobenzyl alcohol.

reactant | methyl 2-aminobenzoate | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | methyl magnesium iodide | 19.4 g | C[Mg]I
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | ammonium chloride | 200 ml | [Cl-].[NH4+]
product | α,α-dimethyl-2-aminobenzyl alcohol | 19.1 g | CC(C1=C(C=CC=C1)N)(C)O | C9H13NO
